US09340538B2
Step B: Ethyl 4-(5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-yl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde (2.34 g, 6.96 mmol) was reacted with thiazole-2-carboximidamide hydrochloride (1.14 g, 6.96 mmol) and ethyl 3-oxobutanoate (1.1 g, 8.35 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (1 g, 26%). The compound was characterized by the following spectroscopic data:

reactant | 5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde | 6.96 mmol, 2.34 g | FC1=CC=C(C(=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=O | C15H7F7O
reactant | thiazole-2-carboximidamide hydrochloride | 6.96 mmol, 1.14 g | Cl.S1C(=NC=C1)C(N)=N
reactant | ethyl 3-oxobutanoate | 8.35 mmol, 1.1 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(5-fluoro-3′,5′-bis(trifluoromethyl)-[1,1′-biphenyl]-2-yl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1 g, 26% | FC=1C=CC(=C(C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=CN1 | C25H18F7N3O2S
